US07074921B2
A three-necked round bottom flask equipped with a thermocouple, a nitrogen inlet, and a mechanical stirrer was charged with (R)-3-[N-(1-hydroxymethyl-2-phenylethyl)amino]methyl]-4-nitrobenzenecarbonitrile (25 g, 0.08 moles), THF (20 ml), and N-methyl morpholine (NMM) (17.8 mL, 2.0 eq). To this mixture was added N,O-bis(trimethylsilyl)acetamide (BSA) (15 mL, 0.75 eq). The reaction mixture was stirred for 30–45 min at a temperature of 20 to 30° C.; then, a solution of 2-thienylsulfonyl chloride (23.0 g, 1.5 eq) in THF (5 mL) was added with stirring while holding the reaction mixture in the same temperature range for 8 h to 16 h until the reaction was judged to be sufficiently complete by HPLC analysis. THF (200 mL), MTBE (200 mL), and water (80 mL) were added sequentially and the reaction mixture was stirred for 10–15 min before separating the phases. The organic phase was washed with water and any remaining THF solvent was exchanged for methanol through repeatedly removing portions of the THF by distillation at ambient pressure and adding fresh methanol. The cycles were reiterated until the volume of the solution was approximately 125 mL and the solvent exchange was judged to be sufficiently complete by HPLC analysis. The reaction product was crystallized by cooling the methanol solution to 20–25° C. and stirring for at least 2 h. The crystals were removed by filtration, washed with cold methanol, and dried in a vacuum oven (25 inches at 40° to 50° C.) to yield (R)-N-[5-cyano-2-nitrophenyl) methyl]-N-[(1-hydroxymethyl)-2-phenylethyl]thiophene-2-sulfonamide (30.4 g, 83.0% yield).

reactant | 4-nitrobenzenecarbonitrile | 0.08 moles, 25 g | [N+](=O)([O-])C1=CC=C(C=C1)C#N | C7H4N2O2
reactant | N-methyl morpholine | 17.8 mL, 2.0 eq | CN1CCOCC1 | C5H11NO
reactant | N,O-bis(trimethylsilyl)acetamide | 15 mL, 0.75 eq | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 2-thienylsulfonyl chloride | 23.0 g, 1.5 eq | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
solvent | MTBE | 200 mL | CC(C)(C)OC | C5H12O
product | N-[(1-hydroxymethyl)-2-phenylethyl]thiophene-2-sulfonamide | 30.4 g, 83.0% yield | OCC(CNS(=O)(=O)C=1SC=CC1)C1=CC=CC=C1 | C13H15NO3S2
